US08034812B2
Production of N-(2-fluoro-5-{[2-(glycoloylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
To N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide (507 mg, 1.13 mmol) was added 10% hydrogen chloride methanol solution (30 mL), and the mixture was stirred at 50° C. for 23 hr. The solvent was evaporated under reduced pressure. To the residue were added acetoxyacetic acid (242 mg, 2.05 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (336 mg, 1.75 mmol), 1-hydroxybenzotriazole (167 mg, 1.24 mmol), N-ethyldiisopropylamine (0.60 mL, 3.51 mmol) and N,N-dimethylformamide (10 mL), and the mixture was stirred at room temperature for 62 hr. Methanol (10 mL), water (10 mL) and saturated aqueous sodium carbonate solution (2 mL) were added to the mixture, and the mixture was stirred at room temperature for 2 hr and concentrated under reduced pressure. A saturated aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was separated and purified by NH silica gel column chromatography (ethyl acetate/hexane=0/100→100/0-methanol/ethyl acetate=2/98) and crystallized from ethanol to give the title compound (94 mg, 19%) as a white powder.

reactant | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 1.13 mmol, 507 mg | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1 | C22H20FN7O3
reactant | hydrogen chloride methanol | 30 mL | CO.Cl
reactant | acetoxyacetic acid | 2.05 mmol, 242 mg | C(C)(=O)OCC(=O)O | C4H6O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.75 mmol, 336 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.24 mmol, 167 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyldiisopropylamine | 3.51 mmol, 0.60 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium carbonate | 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 mL | O | H2O
solvent | Methanol | 10 mL | CO | CH4O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(2-fluoro-5-{[2-(glycoloylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 94 mg, 19% | FC1=C(C=C(C=C1)OC=1C=CC=2N(N1)C=C(N2)NC(CO)=O)NC(=O)C2=CC(=NN2C)C | C20H18FN7O4
